US07368578B2
A mixture of [1-benzyl-3-({3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1H-pyrazol-4-yl]methanol (0.30 g), activated manganese dioxide (1.00 g) and tetrahydrofuran (50 mL) was stirred at room temperature for 20 hrs. Manganese dioxide was removed by filtration, and the filtrate was concentrated. The obtained crystals were collected by filtration to give 1-benzyl-3-({3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1H-pyrazole-4-carbaldehyde (0.24 g, yield 80%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 151-152° C.

reactant | [1-benzyl-3-({3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1H-pyrazol-4-yl]methanol | 0.30 g | C(C1=CC=CC=C1)N1N=C(C(=C1)CO)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)OC | C30H29N3O5
catalyst | manganese dioxide | 1.00 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-benzyl-3-({3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1H-pyrazole-4-carbaldehyde | 0.24 g, yield 80% | C(C1=CC=CC=C1)N1N=C(C(=C1)C=O)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)OC | C30H27N3O5
